data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(Cl)cc1F)C1C2CCC1C2", "products": "[O][C](c1ccc(Cl)cc1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(Cl)cc1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)cc1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)cc1F", "products": "OC(=CC1C=CCC1)c1ccc(Cl)cc1F"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(Cl)cc1F", "products": "O=C(CC1C=CCC1)c1ccc(Cl)cc1F"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(F)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(F)CN(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(F)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(F)CN(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(F)CN3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CCl)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(OC)c1=C", "products": "COc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)CCl)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCOC1CCN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C1(CC)C(=O)C(=[N+]=[N-])C(=O)OC.[Rh]", "products": "CCOC1CCN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C1(CC)C(=O)[C](=[Rh])C(=O)OC.N#N"}, {"reactants": "CCOC1CCN(C(=O)Cc2cn(C)c3ccccc23)C(=O)C1(CC)C(=O)[C](=[Rh])C(=O)OC", "products": "CCOC1CCN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C21CC.[Rh]"}, {"reactants": "CCOC1CCN(C(=O)Cc2cn(C)c3ccccc23)C2=[O+][C-](C(=O)OC)C(=O)C21CC", "products": "CCOC1CCN2C(=O)CC34c5ccccc5N(C)C3C3(C(=O)OC)OC24C1(CC)C3=O"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccccc1C(C)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1ccccc1C(C)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1ccccc1C(C)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(C)c1ccccc1OC", "products": "COc1ccccc1C(C)O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)COC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)COC)cc1=C", "products": "COC[Si](C)(C)c1cc2c(cc1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1c(Cl)ccc(Br)c1N(C)C(=O)C1=CCCC1.[Pd]", "products": "COc1c(Cl)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1"}, {"reactants": "COc1c(Cl)cc[c]([Pd][Br])c1N(C)C(=O)C1=CCCC1", "products": "COc1c(Cl)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1c(Cl)ccc2c1C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1c(Cl)ccc2c1C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(Cl)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(Cl)C(F)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(Cl)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(Cl)C(F)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(Cl)C(F)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
